US06995263B2
g] {6-[4-(2-Methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid
In analogy to the procedure described in example 5g], {6-[4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain the title compound as colorless solid.

reactant | {6-[4-(2-methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=NC1C)C1=CC=C(C=C1)C(F)(F)F)CCOC)=O | C28H28F3N3O4
reactant | LiOH | [Li+].[OH-]
product | {6-[4-(2-Methoxy-ethyl)-6-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid | COCCC1=NC(=NC(=C1COC1=CC=C2C=CN(C2=C1)CC(=O)O)C)C1=CC=C(C=C1)C(F)(F)F | C26H24F3N3O4
